US08859571B2
A solution of 2-fluoro-5-nitrobenzenesulfonyl chloride (3.2 g, 12.6 mmol) in THF (30 mL) at −45° C. was treated with methylamine hydrochloride (1.0 g, 15.1 mmol) and triethylamine (2.1 mL, 15.1 mmol) and stirred for 30 minutes. The mixture was then treated with 6M aqueous HCl to adjust the pH to 3 and warmed to room temperature before being diluted with water and extracted with EtOAc. The organic extract was dried (sodium sulfate), concentrated, and subjected to flash chromatography (5-20% EtOAc-petroleum ether) to give 2-fluoro-N-methyl-5-nitrobenzenesulfonamide as a yellow solid (3.0 g, 93%). MS (m/z) 235.1 (M+H+).

reactant | 2-fluoro-5-nitrobenzenesulfonyl chloride | 12.6 mmol, 3.2 g | FC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3ClFNO4S
reactant | methylamine hydrochloride | 15.1 mmol, 1.0 g | Cl.CN
reactant | triethylamine | 15.1 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 6M | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-fluoro-N-methyl-5-nitrobenzenesulfonamide | 3.0 g, 93% | FC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)NC | C7H7FN2O4S
